US08912188B2
To a solution of methyl 4-fluoro-2-methoxy-5-nitrobenzoate (40 g, 174.55 mmol) in N,N-dimethylformamide (1000 mL) was added DIEA (45.2 g, 349.74 mmol). Then (4-methoxyphenyl)methanamine (31.1 g, 226.71 mmol) was added dropwise with stirring for 1 hour at 25° C. The reaction mixture was diluted with water (2 L). The solids were collected by filtration to afford methyl 2-methoxy-4-(4-methoxybenzylamino)-5-nitrobenzoate as a yellow solid (44 g, 75%).

reactant | methyl 4-fluoro-2-methoxy-5-nitrobenzoate | 174.55 mmol, 40 g | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])OC | C9H8FNO5
reactant | DIEA | 349.74 mmol, 45.2 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-methoxyphenyl)methanamine | 226.71 mmol, 31.1 g | COC1=CC=C(C=C1)CN | C8H11NO
solvent | N,N-dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
solvent | water | 2 L | O | H2O
product | methyl 2-methoxy-4-(4-methoxybenzylamino)-5-nitrobenzoate | 44 g, 75% | COC1=C(C(=O)OC)C=C(C(=C1)NCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H18N2O6
